Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])[H:7])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],3.35296288625
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:6]#[C:7][O:8][C:9]([H:10])[H:11].[H:5],3.5614926222400003
[C:11]([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-7.36688272272
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.48862446784
[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.55055819684
[C:5]=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],-0.15784300753
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])[H:8],2.9869605484099995
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7].[O:8]=[C:9][H:10],0.08152211299920001
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.27102014225
[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:1]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-8.12749825
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[C:3][H:4].[O:1]=[C:2][O:5][C:6]=[C:7]([H:8])[H:9],5.50480539947
[H:1][O:2][C:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[O:11][H:12]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])([C:5]#[C:6])[O:11][H:12],5.784266089419999
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.12273293229
[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.1076110261000003
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])=[C:13]([H:14])[H:15],1.18081130906
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:12].[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:13]([H:14])[H:15],1.79731926864
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[O:5],-2.65312349348
[O:1]=[C:2]([O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1]=[C:2]([O:3][C:4][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],4.14515269661
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.90649456716
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]1[O:8][C:9]1([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],1.7256347373599996
[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10]>>[C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[O:1]=[C:2][O:9][H:10],5.4876740301
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]=[C:12]([H:13])[H:14],1.83615962912
[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-3.66772412201
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12]>>[C:9][H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:11][H:12],7.02567149079
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3][H:4],4.7043699093
[H:1][O:2][C:3][C:5]([H:6])([H:7])[O:8][H:9].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-3.79963852729
[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.91314511181
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.41310958207
